US06809110B2
In analogy to the procedure described in example 2 a], 7-benzyloxy-benzo[b]thiophene (prepared from benzo[b]thiophen-7-ol [J. Chem. Soc., Perkin Trans. 1 (1983), (12), 2973-71 and benzylchloride by treatment with potassium carbonate in N,N-dimethylformamide at room temperature) was reacted with dichloromethyl methyl ether in dichloromethane at 0° C. to give 7-benzyloxy-benzo[b]thiophene-4-carbaldehyde.

reactant | 7-benzyloxy-benzo[b]thiophene | C(C1=CC=CC=C1)OC1=CC=CC2=C1SC=C2 | C15H12OS
reactant | benzo[b]thiophen-7-ol | S1C2=C(C=C1)C=CC=C2O | C8H6OS
reactant | benzylchloride | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethyl methyl ether | COC(Cl)Cl | C2H4Cl2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7-benzyloxy-benzo[b]thiophene-4-carbaldehyde | C(C1=CC=CC=C1)OC1=CC=C(C2=C1SC=C2)C=O | C16H12O2S
